US05114461
A mixture of methyl 6,6-dimethylpiperidine-2,4-dione-3-carboxylate (26.3 g), water (30 ml) and concentrated hydrochloric acid (3 drops) in acetonitrile (300 ml) was heated at reflux for 4 hours. The cooled solution was evaporated under reduced pressure and the residue recrystallised from water (50 ml) to give 6,6-dimethylpiperidine-2,4-dione (7.3 g), mp 183°-184° C., as a cream crystalline solid.

reactant | methyl 6,6-dimethylpiperidine-2,4-dione-3-carboxylate | 26.3 g | CC1(CC(C(C(N1)=O)C(=O)OC)=O)C | C9H13NO4
reactant | water | 30 ml | O | H2O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 6,6-dimethylpiperidine-2,4-dione | 7.3 g | CC1(CC(CC(N1)=O)=O)C | C7H11NO2
